US04672116
Methyl 2-cyano-3,4-dimethoxyphenylcarbamate
Methyl chloroformate (18.6 g, 19.7 mmol) was added to a suspension of K2CO3 (2.71 g, 19.6 mmol) and 2-amino-5,6-dimethoxybenzonitrile (7.0 g, 39.3 mmol) in 70 ml of CHCl3. The resulting mixture was heated at reflux for 2 hours before using filtered and evaporated to a residual solid. Recrystallization of the crude material from MeOH yielded 4.64 g (50.2% of product in good purity.

reactant | Methyl chloroformate | 19.7 mmol, 18.6 g | ClC(=O)OC | C2H3ClO2
reactant | K2CO3 | 19.6 mmol, 2.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-amino-5,6-dimethoxybenzonitrile | 39.3 mmol, 7.0 g | NC1=C(C#N)C(=C(C=C1)OC)OC | C9H10N2O2
solvent | CHCl3 | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2-cyano-3,4-dimethoxyphenylcarbamate | 50.2% | C(#N)C1=C(C=CC(=C1OC)OC)NC(OC)=O | C11H12N2O4
